US07888349B2
mCPBA (26.1 g of 77% pure material, 118 mmol) was added in small portions to a solution of tert-butyl 10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate (29.54 g, 91.06 mmol) in chloroform (500 mL), and the reaction was stirred for one hour at ambient temperature. Aqueous sodium carbonate (400 mL of a 1% solution) was added, and the mixture was stirred for 30 minutes. The organic layer was separated, washed with 1% aqueous sodium carbonate (2×300 mL). Citric acid (10% aqueous solution) was added to aid in the separation. The organic layer was then washed twice with 10% aqueous citric acid, and the combined aqueous washings were extracted with chloroform (3×150 mL). The combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting solid was dried overnight under vacuum to provide 28.49 g of tert-butyl 5-oxido-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate as a brown solid.

reactant | mCPBA | 118 mmol, 26.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | tert-butyl 10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | 91.06 mmol, 29.54 g | C1=C2C3=C(C=NC2=CC=C1)N=C1N3CCN(C1)C(=O)OC(C)(C)C | C18H20N4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 5-oxido-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | 28.49 g | [O-][N+]1=CC2=C(C3=CC=CC=C13)N1C(=N2)CN(CC1)C(=O)OC(C)(C)C | C18H20N4O3
